US05990108
A mixture of 0.3 g of ethyl (E)-4-(2-ethoxycarbonylvinyl)-1-(ethoxycarbonylmethyl-1-oxoindan-2-yl)imidazole-2-carboxylate, 7 ml of acetic acid and 5 g of ammonium acetate is heated at reflux for 1 hour. The reaction mixture is supplemented with 7 ml of distilled water and the insoluble matter is isolated by filtration, washed with 2×5 ml of distilled water and then 2×5 ml of acetone. After drying under vacuum (1 mm Hg, 0.13 kPa) at about 20° C., 0.15 g of ethyl (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylate is obtained in the form of a brown solid melting above 260° C., used as is in the subsequent syntheses [1H NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz): 1.22 (3H, t, J=6 Hz, CH3), 1.30 3H, t, J=6 Hz, CH3), 3.87 (2H, s, CH2), 4.00 (2H, s, CH2), 4.15 (2H, q, J=6 Hz, OCH2), 4.25 (2H, q, J=6 Hz, OCH2), 6.70 (1H, d, J=16 Hz, ethylenic CH), 7.28 (1H, d, J=7 Hz, arom. CH), 7.42 (1H, t, J=7 Hz, arom. CH), 7.70 (1H, d, J=16 Hz, ethylenic CH), 7.84 (1H, d, J=7 Hz, arom. CH), 8.40 (1H, s, imidazole CH), 12.00 (1H, broad s, NHCO)].

reactant | ethyl (E)-4-(2-ethoxycarbonylvinyl)-1-(ethoxycarbonylmethyl-1-oxoindan-2-yl)imidazole-2-carboxylate | 0.3 g | C(C)OC(=O)/C=C/C=1N=C(N(C1)C1(C(C2=CC=CC=C2C1)=O)CC(=O)OCC)C(=O)OCC | C24H26N2O7
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
solvent | water | 7 ml | O | H2O
product | ethyl (E)-3-(9-carboxymethyl-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazin-2-yl)acrylate | 0.15 g | C(=O)(O)CC=1C=2CC3=C(NC(C=4N3C=C(N4)/C=C/C(=O)OCC)=O)C2C=CC1 | C20H17N3O5
